US07091353B2
1,8-Diazabicyclo[5,4,0]undec-7-ene (0.62 g, 4.08 mmol) was added to a stirred suspension of 4 (aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride (0.600 g, 1.85 mmol) in CH3CN (50 ml). After stirring for 20 min, acetoxyacetyl chloride (0.28 g, 2.03 mmol) was added. The mixture was stirred at room temperature for 17 hours. The solvent was removed in vacuo and the residue was dissolved in CH2Cl2 (70 ml). The CH2Cl2 solution was washed with 1N HCl (30 ml), H2O (30 ml), brine (30 ml) and dried (MgSO4). The solvent was removed in vacuo and the residue was purified by chromatography (SiO2, CH2Cl2:CH3OH 100:2.5) to give (N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}carbamoyl)methyl acetate (0.54 g, 75%) as a white solid: mp 108–110° C.; 1H NMR (DMSO-d6) δ d 11.14 (s, 1H), 8.68 (t, J=6.0 Hz, 1H), 7.87–7.79 (m, 2H), 7.71–7.65 (m, 1H), 5.19–5.12 (dd, J=5.3 and 12.4 Hz, 1H), 4.77 (d, J=5.9 Hz, 2H), 4.56 (s, 2H), 2.96–2.83 (m, 1H), 2.63–2.47 (m, 2H), 2.11 (s, 3H), 2.08–1.98 (m, 1H); 13C NMR (DMSO-d6) δ d 172.66, 169.96, 169.72, 167.46, 167.37, 166.36, 138.80, 134.68, 133.01, 132.47, 127.04, 121.87, 62.36, 48.84, 37.46, 30.38, 21.93, 20.49; Anal. Calcd. For C18H17N3O7+0.15H2O: C, 55.43; H, 4.47; N, 10.77. Found: C, 55.43; H, 4.54; N, 10.44.

reactant | 1,8-Diazabicyclo[5,4,0]undec-7-ene | 4.08 mmol, 0.62 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | (aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride | 1.85 mmol, 0.600 g | Cl.NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O
reactant | acetoxyacetyl chloride | 2.03 mmol, 0.28 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | CH3CN | 50 ml | CC#N | C2H3N
product | (N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}carbamoyl)methyl acetate | 0.54 g, 75% | C(C)(=O)OCC(NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O)=O | C18H17N3O7
